Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abd pain, nausea, vomiting and diarrhea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a pleasant ___ yo F generally healthy, with 
history of hypothyroidism, who is presenting with abd pain, 
nausea, vomiting and diarrhea.  
Patient notes that she was recently told that she had 
hyperthyroidism in the setting of medication change. The 
timeline is as follows: End of ___ - patient had been on 
88mcg synthroid and 20mcg T3 for a long time, but was told there 
was shortage of T3, and was switched to 'nature throid' which is 
a combination T3-T4 pill. she does not recall the dose. 5 days 
ago - patient called from ___ office in ___, told she was 
hyperthyroid. She was switched back to synthroid 88mcg only 
without T3.  
She notes that over the past week she has had central chest 
pressure, nonexertional, and worse with lying flat. This is 
accompanied with a sensation that 'arms are weightless.' This 
resolved as of ___ days ago without further chest pain. However, 
this morning, woke up, vomited x 3 without blood, and had 2 
episodes of watery nonbloody diarrhea and mild abdominal pain. 
She notes night prior reheated leftover rice stirfry. She noted 
some diaphoresis with vomiting. Notes some mild lightheadedness 
over the past few days without syncope. Decreased PO intake 
today.  
Patient also notes increased vaginal bleeding. Is 
pre-menopausal, and thought she was perimenopausal as bleeding 
had become lighter but recently have become heavier.  
No other fevers or chills, no headache, no visual changes, no 
dysuria, no rash, no joint pain, no back pain, no long bone 
pain, no vision changes, no weakness or numbness. No recent 
antibiotics  
In the ED, initial VS were: 98.3 83 140/88 18 99% RA  
Exam notable for:  
mild tachycardia and mild abdominal tenderness. She was noted to 
have some skipped beats.  
Labs showed:  
WBC 22.7, Hgb 17.9, Plts 251  
LFTs WNL, normal lipase  
Chem7 WNL  
Lactate 1.9, TropT <0.01  
INR 1.0  
UA with <1 epi, mod bld, 3 WBC, few bacteria  
Trop <0.01, second trop pending  
Imaging showed:  
CT abd/pelvis with contrast:  
1. Submucosal edema, wall thickening, mucosal hyperenhancement, 
and associated mesenteric hyperemia of predominantly jejunal 
small bowel loops suggestive of enteritis of infectious or 
inflammatory etiology. Differential consideration also includes 
ACE inhibitor associated angioedema.  
2. Small volume ascites likely related to enteritis.  
3. Simple appearing 3.1 cm left adnexal cystic lesion. Consider 
further evaluation with pelvic ultrasound if patient is 
postmenopausal.  
EKG was notable for an ST depression in v4, and mild ST 
depressions in v5, II, but on repeat, no ST changes  

Patient received:  
IVF NS 1000 mL  
IV Ketorolac 15 mg  
IV Ondansetron 4 mg  
IV MetroNIDAZOLE 500 mg  
IV Ciprofloxacin 400 mg  
No ED consults  
Transfer VS were: 98.5 88 135/89 18 99% RA  
On arrival to the floor, patient reports she overall feels 
better. No CP. No palpitations, recent weight changes. She 
corroborates the above history.  

REVIEW OF SYSTEMS:  
Negative aside from as listed above
 
Past Medical History:
Hypothyroidism  
 
Social History:
___
Family History:
Father with cardiac history, not otherwise known  
Paternal grandfather with MI at ___  
Sister with HTN 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.5 123/75 69 18 97% RA  
GENERAL: NAD, resting comfortably  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM: 
VS: 98.4 PO 97 / 63 60 18 98 Ra 
GENERAL: NAD, pleasant, walking around   
HEENT: AT/NC, anicteric sclera, pink conjunctiva 
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding 
EXTREMITIES: no cyanosis, clubbing, or edema   
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 
 
Pertinent Results:
Admission labs:
===========
___ 07:25PM BLOOD WBC-22.7* RBC-5.23* Hgb-17.2* Hct-49.0* 
MCV-94 MCH-32.9* MCHC-35.1 RDW-12.7 RDWSD-43.6 Plt ___
___ 07:25PM BLOOD Neuts-88.3* Lymphs-4.4* Monos-6.4 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-20.04* AbsLymp-1.00* 
AbsMono-1.46* AbsEos-0.01* AbsBaso-0.09*
___ 07:25PM BLOOD Glucose-84 UreaN-15 Creat-0.9 Na-140 
K-4.1 Cl-101 HCO3-21* AnGap-18
___ 07:25PM BLOOD ALT-16 AST-31 AlkPhos-62 TotBili-0.8
___ 07:25PM BLOOD cTropnT-<0.01
___ 01:50AM BLOOD cTropnT-<0.01
___ 05:08AM BLOOD Calcium-8.2* Phos-2.6* Mg-1.8
___ 07:25PM BLOOD Albumin-4.6
___ 07:25PM BLOOD TSH-3.8
___ 07:25PM BLOOD T4-8.0 T3-83
___ 07:39PM BLOOD Lactate-1.9

Imaging: 
======
___- Stress Echo:
IMPRESSION: Good functional exercise capacity for age and 
gender. No diagnostic ECG or 2D echocardiographic evidence of 
inducible ischemia to achieved workload. Normal hemodynamic 
response to exercise. 

___- CT abd/pelvis with contrast:  
1. Submucosal edema, wall thickening, mucosal hyperenhancement, 
and associated mesenteric hyperemia of predominantly jejunal 
small bowel loops suggestive of enteritis of infectious or 
inflammatory etiology. Differential consideration also includes 
ACE inhibitor associated angioedema.  
2. Small volume ascites likely related to enteritis.  
3. Simple appearing 3.1 cm left adnexal cystic lesion. Consider 
further evaluation with pelvic ultrasound if patient is 
postmenopausal.  
EKG was notable for an ST depression in v4, and mild ST 
depressions in v5, II, but on repeat, no ST changes  

Discharge labs:
===========
___ 05:09AM BLOOD WBC-5.7# RBC-3.75* Hgb-12.1 Hct-36.2 
MCV-97 MCH-32.3* MCHC-33.4 RDW-13.0 RDWSD-46.1 Plt ___
___ 05:09AM BLOOD Glucose-95 UreaN-7 Creat-0.8 Na-141 K-4.3 
Cl-108 HCO3-22 AnGap-11
___ 05:09AM BLOOD Calcium-8.2* Phos-2.5* Mg-2.___ yo F generally healthy, with history of hypothyroidism, who 
is presenting with abd pain, nausea, vomiting and diarrhea. 
Found to have significant leukocytosis, mild polycythemia in 
setting of likely dehydration, and recent episodes of atypical 
chest pain.

#Abd pain/nausea/vomiting
#Leukocytosis
Patient with one day of N/V/D and abd pain as well as 
leukocytosis today. CT showing findings c/w infectious enteritis 
which is most likely given history and timing of symptoms. 
Suspect bacillus cereus given rapid onset of symptoms after 
eating reheated stirfry however patient's improvement after 
antibiotics could represent a more sinister etiology as well. 
Will continue po cipro and flagyl given level of leukocytosis, 
although leukocytosis could alternatively be explaining 
explained by significant hemoconcentration. S/p 1L IVF in Ed and 
Zofran with good effect. Discharged on PO cipro and flagyl x 5d 
(through ___. Had some constipation prior to discharge so was 
discharged on docusate as well. 

#Atypical chest pain
Patient with recent atypical chest pain per above. Currently 
without CP. Initial EKG was abnormal with mild ST depressions, 
but without symptoms, and with trop <0.01 x 2 and subsequent EKG 
appearing normal. Patient was initially referred for an exercise 
stress test however developed ST depressions and T-wave 
inversions while in the stress lab so subsequently underwent an 
echo and stress test that was negative. Trop <0.01 x2.

#Hypo/hyperthyroidism
Report of recent iatrogenic hyperthyroidism in setting of 
switching thyroid medications, TSH here is normal. T3/T4 WNL. 
Given how recently the patient reports hyperthyroidism, it is 
surprising that her thyroid function tests have normalized so 
rapidly. Continue levothyroxine 88mcg

TRANSITIONAL ISSUES:
[] Complete 5 days of ciprofloxacin/flagyl for gastroenteritis

#CODE: Full (presumed) 
#CONTACT: ___ (friend) ___ 

ATTENDING STATEMENT: I have seen and examined Ms. ___, 
reviewed the findings, data, and discharge plan of care 
documented by Dr. ___, MD dated ___ and agree.

___, MD, PharmD
Section of Hospital Medicine
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 88 mcg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*5 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*8 Tablet Refills:*0 
4.  Levothyroxine Sodium 88 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroenteritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were seen at ___ for your 
gastroenteritis.  This is likely due to infection, which was 
treated with antibiotics.  You were given IV fluids to treat 
your dehydration.  Please complete your course of antibiotics 
upon discharge.

You also had chest pain on presentation.  Your EKG showed some 
nonspecific changes so you underwent a stress test.  Your stress 
test with echocardiogram was normal.

Please take your medications as prescribed and follow-up at your 
outpatient appointments.

It was a pleasure taking care of you,

Your ___ team
 
Followup Instructions:
___